US09399640B2
Step 3. 4-(Cyclobutylmethoxy)-1-methyl-5-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-3-(2-piperidin-4-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one
A 3.0 M solution of sodium hydroxide in water (0.40 L) was added to the solution of 4-(cyclobutylmethoxy)-1-methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-3-(2-piperidin-4-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one (20.0 mg, 0.031 mmol) in methanol (1.0 mL), and the resultant reaction mixture was stirred at 60° C. for 1 h. The reaction mixture was purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (1.1 mg, 7%). LCMS calculated for C28H36N5O3 (M+H)+: m/z=490.3. found: 490.3.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-(cyclobutylmethoxy)-1-methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-3-(2-piperidin-4-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one | 0.031 mmol, 20.0 mg | C1(CCC1)COC1=C(C=CC=2N(C(N(C21)CCC2CCNCC2)=O)C)C=2C1=C(C(N(C2)C)=O)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C | C35H41N5O5S
solvent | water | 0.40 L | O | H2O
solvent | methanol | 1.0 mL | CO | CH4O
product | 4-(Cyclobutylmethoxy)-1-methyl-5-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-3-(2-piperidin-4-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one | 1.1 mg, 7% | C1(CCC1)COC1=C(C=CC=2N(C(N(C21)CCC2CCNCC2)=O)C)C=2C1=C(C(N(C2)C)=O)NC=C1 | C28H35N5O3
